US07947851B2
Step a) Formation of methyl 5-({4-[(4-butylphenyl)ethynyl]benzyl}{[2-(ethoxycarbonyl) cyclopropyl]methyl}amino)-2-fluorobenzoate
To solution of methyl 5-({4-[(4-butylphenyl)ethynyl]benzyl}amino)-2-fluorobenzoate (500 mg; 1.20 mmol) in anhydrous DCE (30 mL) were added ethyl-2-formyl-1-cyclopropanecarboxylate (Aldrich, 0.40 mL; 3.01 mmol), triacetoxyborohydride (382 mg; 1.81 mmol).The resulting mixture was stirred at 50° C. under N2 atmosphere for 4 hours. The mixture was poured into a saturated solution of NaHCO3 (50 mL) and extracted with DCM (2×50 mL). The combined organic layers were washed with brine (100 mL), dried over magnesium sulfate, filtrated and the solvents were removed under reduced pressure to give 872 mg. Purification of this crude by flash chromatography on silicagel (c-Hex/EtOAc, gradient 95:5 to 90:10) gave 340 mg (65%) of the title compound as a yellow oil. HPLC, Rt: 6.06 min (purity=96.2%). LC/MS, M+(ESI): 542.3. 1H NMR (CDCl3) δ: 7.43 (t, J=8.5 Hz, 4H), 7.32 (m, 1H), 7.22 (d, J=7.9 Hz, 2H), 7.15 (d, J=7.9 Hz, 2H), 6.93 (m, 2H), 4.54 (s, 2H), 4.08 (m, 2H), 3.89 (s, 3H), 3.35 (m, 2H), 2.61 (t, J=7.5 Hz, 2H), 1.32-1.58 (m, 7H), 1.24 (t, J=7.0 Hz, 3H), 0.92 (t, J=7.3 Hz, 3H), 0.88 (m, 1H).

reactant | methyl 5-({4-[(4-butylphenyl)ethynyl]benzyl}amino)-2-fluorobenzoate | 1.20 mmol, 500 mg | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CNC=2C=CC(=C(C(=O)OC)C2)F)C=C1 | C27H26FNO2
reactant | ethyl-2-formyl-1-cyclopropanecarboxylate | 3.01 mmol, 0.40 mL | C(C)OC(=O)C1C(C1)C=O | C7H10O3
reactant | triacetoxyborohydride | 1.81 mmol, 382 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O
reactant | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
solvent | DCE | 30 mL | ClCCCl | C2H4Cl2
product | methyl 5-({4-[(4-butylphenyl)ethynyl]benzyl}{[2-(ethoxycarbonyl) cyclopropyl]methyl}amino)-2-fluorobenzoate | 340 mg, 65% | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C=2C=CC(=C(C(=O)OC)C2)F)CC2C(C2)C(=O)OCC)C=C1 | C34H36FNO4
